US06211234B1
A stirred suspension of sodium (R)-4-hydroxy-4-(2-methylphenyl)butanoate (190 mg) in THF (15 mL) is treated with 60% sodium hydride (35 mg) and maintained at 25° for 0.5 hours. The mixture is treated with 2-fluoro-4-(thiophen-3-ylmethoxy)nitrobenzene (220 mg) and maintained at 50° C. for 3 hours. The solution is evaporated. The residue is dissolved in ethyl acetate, washed with water, dried and evaporated. The residue is purified by flash chromatography on silica, eluting with dichloromethane followed by ethyl acetate, followed by recrystallisation from ethyl acetate/pentane to give (R)-4-[2-nitro-5-(thiophen-3-ylmethoxy)phenoxy]-4-(2-methylphenyl)butyric acid (70 mg), a tan coloured solid, mp. 130-131° C. 1H NMR (CHCl3) 2.2-2.9 (4H,m), 2.4 (3H,s), 4.9 (2H, q), 5.5 (1H, q), 6.2 (1H,s), 6.5 (1H,d), 7.0-7.4 (7H,m), 7.9 (1H,d).

reactant | sodium (R)-4-hydroxy-4-(2-methylphenyl)butanoate | 190 mg | O[C@H](CCC(=O)[O-])C1=C(C=CC=C1)C.[Na+]
reactant | sodium hydride | 35 mg | [H-].[Na+]
reactant | 2-fluoro-4-(thiophen-3-ylmethoxy)nitrobenzene | 220 mg | FC1=C(C=CC(=C1)OCC1=CSC=C1)[N+](=O)[O-] | C11H8FNO3S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-4-[2-nitro-5-(thiophen-3-ylmethoxy)phenoxy]-4-(2-methylphenyl)butyric acid | 70 mg | [N+](=O)([O-])C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C22H21NO6S
